US04237060
To a solution of 275 mg of [6S,8R,9S,11R,12S,15R,16R]-6,9-epoxy-11-methyl-16-fluoro-15-hydroxyprost-(13E)-enoic acid in 20 ml of ethyl acetate was added 30 mg of platinum oxide. The mixture was sealed under a positive hydrogen atmosphere and vigorously stirred. After eight hours, the reaction mixture was filtered and the volatiles removed by rotary evaporation. The residual oily product was purified by chromatography over 50 g of Sephadex LH-20 using chloroform-hexane (65/35) to yield [6S,8R,9S,11R,12S,15R,16R]-6,9-epoxy-11-methyl-16-fluoro-15-hydroxyprostanoic acid.

reactant | [6S,8R,9S,11R,12S,15R,16R]-6,9-epoxy-11-methyl-16-fluoro-15-hydroxyprost-(13E)-enoic acid | 275 mg | O1[C@@H](CCCCC(=O)O)C[C@H]2[C@@H]1C[C@H]([C@H]2\C=C\[C@H]([C@@H](CCCC)F)O)C | C21H35FO4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 30 mg | [Pt]=O
product | [6S,8R,9S,11R,12S,15R,16R]-6,9-epoxy-11-methyl-16-fluoro-15-hydroxyprostanoic acid | O1[C@@H](CCCCC(=O)O)C[C@H]2[C@@H]1C[C@H]([C@@H]2CC[C@H]([C@@H](CCCC)F)O)C | C21H37FO4
